US05728907
Decylmagnesium bromide (0.66 mole) in ethyl ether is slowly added to 0.33 moles of diethylcarbonate in 100 ml ethyl ether and stirred for one hour at 30° C. (nitrogen atmosphere). Tetradecylmagnesium bromide (0.33 moles) is slowly added to the solution and stirred for one hour at 30° C. The mixture is then slowly poured into 600 ml of a cold 10% HCl solution. The organic layer is dried with magnesium sulfate and the ethyl ether evaporated off to give di-n-decyl-n-tetradecylcarbinol.

reactant | Decylmagnesium bromide | 0.66 mole | C(CCCCCCCCC)[Mg]Br
reactant | diethylcarbonate | 0.33 moles | C(C)OC(OCC)=O | C5H10O3
reactant | Tetradecylmagnesium bromide | 0.33 moles | C(CCCCCCCCCCCCC)[Mg]Br
reactant | HCl | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | di-n-decyl-n-tetradecylcarbinol | C(CCCCCCCCC)C(O)(CCCCCCCCCCCCCC)CCCCCCCCCC | C35H72O
